US05461161
8. Preparation of N-(2-chloro-4-methoxy-3-pyridyl)-5,7-dimethoxy[1,2,4]triazolo[1,5-c]pyrimidine-2-sulfonamide
To a solution of 0.60 g (1.5 mmol) of N-(2-chloro-4-methoxy-3-pyridinyl)-7-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine-2-sulfonamide in 20 mL of dimethyl sulfoxide was added with stirring 0.24 g (3.4 mmol) of potassium methoxide in 2.4 mL of dry methanol. After 1 hour 5 mL of acetic acid was added and the solution taken up in 400 mL of dichloromethane. The resulting solution was washed with water (6×150 mL), dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain 270 mg (20 percent of theory) of the title compound as a white solid melting at 197°-199° C. with decomposition.

reactant | N-(2-chloro-4-methoxy-3-pyridinyl)-7-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine-2-sulfonamide | 1.5 mmol, 0.60 g | ClC1=NC=CC(=C1NS(=O)(=O)C1=NN2C(=NC(=CC2=N1)F)OC)OC | C12H10ClFN6O4S
reactant | potassium methoxide | 3.4 mmol, 0.24 g | C[O-].[K+]
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | methanol | 2.4 mL | CO | CH4O
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | N-(2-chloro-4-methoxy-3-pyridyl)-5,7-dimethoxy[1,2,4]triazolo[1,5-c]pyrimidine-2-sulfonamide | ClC1=NC=CC(=C1NS(=O)(=O)C1=NN2C(=NC(=CC2=N1)OC)OC)OC | C13H13ClN6O5S
